US07129238B2
To a stirred solution of (RS)-(3-benzyloxy-4-methoxy-phenyl)-methoxy-acetic acid (0.923 g) at rt in ethanol was added 10% Pd/C. The mixture was then stirred at rt under a hydrogen atmosphere for 17 h. The catalyst was filtered off and washed with dichloromethane. The filtrate was concentrated (rotavapor) to give (RS)-(3-hydroxy-4-methoxy-phenyl)-methoxy-acetic acid (0.642 g) as an orange gum.

reactant | (RS)-(3-benzyloxy-4-methoxy-phenyl)-methoxy-acetic acid | 0.923 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)C(C(=O)O)OC | C17H18O5
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | (RS)-(3-hydroxy-4-methoxy-phenyl)-methoxy-acetic acid | 0.642 g | OC=1C=C(C=CC1OC)C(C(=O)O)OC | C10H12O5
